US07709500B2
2,3-Dichloro-6-(piperidin-4-yloxy)benzenesulfonamide
tert-Butyl-4-[3,4-dichloro-2-(chlorosulfonyl)phenoxy]piperidine-1-carboxylate (0.80 g, 1.8 mmol) was dissolved in 7N ammonia in methanol and stirred at room temperature for 20 min. The solution was concentrated in vacuo and then azeotroped once with toluene. The residue was redissolved in dichloromethane:trifluoroacetic acid/1:1 (20 ml) and stirred at room temperature for 15 minutes. The solution was concentrated in vacuo, then partitioned between ethyl acetate and saturated aqueous sodium hydrogen carbonate solution. The aqueous was reextacted with ethyl acetate (4 times), and the combined organics dried over anhydrous potassium carbonate. Concentration in vacuo afforded the title compound as a white powder (0.54 g).

reactant | tert-Butyl-4-[3,4-dichloro-2-(chlorosulfonyl)phenoxy]piperidine-1-carboxylate | 1.8 mmol, 0.80 g | C(C)(C)(C)OC(=O)N1CCC(CC1)OC1=C(C(=C(C=C1)Cl)Cl)S(=O)(=O)Cl | C16H20Cl3NO5S
reactant | ammonia | 7N | N | H3N
solvent | methanol | CO | CH4O
product | 2,3-Dichloro-6-(piperidin-4-yloxy)benzenesulfonamide | 0.54 g | ClC1=C(C(=CC=C1Cl)OC1CCNCC1)S(=O)(=O)N | C11H14Cl2N2O3S
